US07671048B2
a) 2-Amino-5-trifluoromethoxybenzonitrile
To a solution of 2-bromo-4-(trifluoromethoxy)aniline (15.1 g, 60.0 mmol) in N-methylpyrrolidone (100 mL) was added copper cyanide (10.6 g, 118 mmol) and the reaction mixture was stirred for 6.5 h at 163° C. After cooling to ambient temperature it was poured onto ice-water (300 mL) and aqueous ammonia (350 mL). The resulting brown precipitate was collected by filtration, washed with water (150 mL) and dissolved in dichloromethane (350 mL). The insoluble material was removed by filtration and the filtrate was washed with brine (100 mL) and dried over sodium sulfate. Purification by chromatography (SiO2, heptane:ethyl acetate=95:5 to 25:75:) afforded the title compound (9.09 g, 76%) as a brown solid. MS: m/e=405.1 [2M+H]+.

reactant | 2-bromo-4-(trifluoromethoxy)aniline | 60.0 mmol, 15.1 g | BrC1=C(N)C=CC(=C1)OC(F)(F)F | C7H5BrF3NO
reactant | copper cyanide | 118 mmol, 10.6 g | [Cu](C#N)C#N
reactant | ammonia | 350 mL | N | H3N
solvent | N-methylpyrrolidone | 100 mL | CN1C(CCC1)=O | C5H9NO
product | 2-Amino-5-trifluoromethoxybenzonitrile | 9.09 g, 76% | NC1=C(C#N)C=C(C=C1)OC(F)(F)F | C8H5F3N2O
